US07585881B2
3-[4-methyl-5-(methylsulfonyl)-4H-1,2,4-triazol-3-yl]pyridine
KMnO4 (5 g, 32 mmol) was added to a solution of 3-[4-methyl-5-(methylthio)-4H-1,2,4-triazol-3-yl]pyridine (6.0 g, 29 mmol) in H2O (40 mL) and acetic acid (100 mL). After 1 h stirring at rt the reaction was basified with aq. NaOH (4M). CHCl3 was added and the mixture was filtrated through celite. The layers were separated and the water phase was washed with CHCl3. The combined organic phase was dried and concentrated to give 3.67 g (53%) of the title compound. 1H NMR: 3.59 (s, 3H) 3.99 (s, 3H) 7.52 (m, 1H) 8.02 (dt, 1H) 8.83 (dd, 1H) 8.91 (m, 1H)

reactant | KMnO4 | 32 mmol, 5 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | 3-[4-methyl-5-(methylthio)-4H-1,2,4-triazol-3-yl]pyridine | 29 mmol, 6.0 g | CN1C(=NN=C1SC)C=1C=NC=CC1 | C9H10N4S
reactant | NaOH | 4M | [OH-].[Na+]
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | H2O | 40 mL | O | H2O
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 3-[4-methyl-5-(methylsulfonyl)-4H-1,2,4-triazol-3-yl]pyridine | 3.67 g, 53% | CN1C(=NN=C1S(=O)(=O)C)C=1C=NC=CC1 | C9H10N4O2S
